US06716851B2
4-(3-Methylthioanilino)-6-methyl-2-(2-pyridinyl)pyrimidine
The title compound was prepared from 4-chloro-6-methyl-2-(2-pyridinyl)pyrimidine (50 mg, 0.243 mmol) and 3-(methylthio)aniline (30 μl, 0.243 mmol) similar to Example 13 and isolated as a pink oil (67 mg, 89%). 1H NMR (CDCl3): 8.77-8.74 (m, 1H), 8.44-8.41 (m, 1H), 7.81-7.75 (m, 1H), 7.46 (s, 1H), 7.34-7.28 (m, 2H), 7.23 (t, J=8.1 Hz, 1H), 7.09-7.06 (m, 1H), 7.00-6.97 (m, 1H), 6.55 (d, J=0.6 Hz, 1H), 2.44 (s, 3H), 2.43 (d, J=0.6, 3H).

reactant | 4-chloro-6-methyl-2-(2-pyridinyl)pyrimidine | 0.243 mmol, 50 mg | ClC1=NC(=NC(=C1)C)C1=NC=CC=C1 | C10H8ClN3
reactant | 3-(methylthio)aniline | 0.243 mmol, 30 μl | CSC=1C=C(N)C=CC1 | C7H9NS
product | 4-(3-Methylthioanilino)-6-methyl-2-(2-pyridinyl)pyrimidine | CSC=1C=C(NC2=NC(=NC(=C2)C)C2=NC=CC=C2)C=CC1 | C17H16N4S
